US04567264
One g of 1-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine is dissolved in 25 ml of pyridine and cooled in an ice bath to 0°-5° C. Acetic anhydride (0.6 g) is slowly added and the reaction is stirred for 2 hours. After the addition of 100 ml of water, the reaction mixture is extracted twice with 100 ml portions of diethylether. After combining, the ether extract is washed twice with 100 ml of water and evaporated to dryness to produce 1-[3-(2-methoxyphenoxy)-2-acetoxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine as an oil.

reactant | 1-[3-(2-methoxyphenoxy)-2-hydroxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine | COC1=C(OCC(CN2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)O)C=CC=C1 | C24H33N3O4
reactant | Acetic anhydride | 0.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 100 ml | O | H2O
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 1-[3-(2-methoxyphenoxy)-2-acetoxypropyl]-4-[(2,6-dimethylphenyl)aminocarbonylmethyl]piperazine | COC1=C(OCC(CN2CCN(CC2)CC(=O)NC2=C(C=CC=C2C)C)OC(C)=O)C=CC=C1 | C26H35N3O5
